US04771058
A solution of 3-(5-bromopyrid-2-ylamino)propylamine (1 g) and 3,4-dimethoxy-1,2,5-thiadiazole-1-oxide (0.71 g) was stirred in methanol for 3 hours. Methanol saturated with ammonia (10 ml) was added and the solution was stirred for 18 hours, concentrated in vacuo and the residue was chromatographed on silica eluted with 10% v:v methanol in chloroform followed by recrystallisation from methanol to give 3-[3-(5-bromopyrid-2-ylamino)propylamino]-4-amino-1,2,5-thiadiazole-1-oxide (0.63 g), m.p. 215°-216° C.

reactant | 3-(5-bromopyrid-2-ylamino)propylamine | 1 g | BrC=1C=CC(=NC1)NCCCN | C8H12BrN3
reactant | 3,4-dimethoxy-1,2,5-thiadiazole-1-oxide | 0.71 g | COC1=NS(N=C1OC)=O | C4H6N2O3S
reactant | ammonia | 10 ml | N | H3N
solvent | methanol | CO | CH4O
product | 3-[3-(5-bromopyrid-2-ylamino)propylamino]-4-amino-1,2,5-thiadiazole-1-oxide | 0.63 g | BrC=1C=CC(=NC1)NCCCNC1=NS(N=C1N)=O | C10H13BrN6OS
